* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 270.3321353265146 
R2 N001 N002 49.447355983119955 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 2.828834557184751 
.model DPV D(Is=7.709341155310778e-05 N=2.7229573468755213 Tnom=86.62565863195289) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 -0.2057 0.59 0.00766
.backanno 
.end 
 