* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 365.7025177025964 
R2 N001 N002 4.294166082540591 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 3.022142592375367 
.model DPV D(Is=1.3569263647521637e-05 N=2.8549326466871707 Tnom=44.867558353002885) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 -0.2057 0.59 0.00766
.backanno 
.end 
 