* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 711.1120283241543 
R2 N001 N002 0.1688205716071812 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 0.7749036601101494 
.model DPV D(Is=1.3394645888276948e-05 N=1.9297751710654936 Tnom=33) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 -0.2057 0.59 0.00766
.backanno 
.end 
 