* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 648.203411487018 
R2 N001 N002 0.05135640577927187 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 0.7798470180959874 
.model DPV D(Is=8.78115122895358e-06 N=1.9282807619865054 Tnom=33) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 -0.2057 0.59 0.00766
.backanno 
.end 
 