* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 52.4768 
R2 N001 N002 0.0367251 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 0.760849 
.model DPV D(Is=2.9815e-07 N=1.43 Tnom=33) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 -0.2057 0.59 0.00766
.backanno 
.end 
 